US05292715
A solution of 2-[(t-butylcarbonyl)imino]-3-[3-(trifluoromethyl)phenyl]-5-methylthiazoline (1 g) and 2,4bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4disulfide (2 g) in THF (10 ml) was refluxed for 2 days. After cooling and removal of the solvent under reduced pressure, the concentrated residue was added pottasium hydrogencarbonate. The obtained crystallines were recrystallized to give 0.6 g of 2-[t-butyl(thiocarbonyl)]imino-3-[3-(trifluoromethyl)phenyl]-5-methylthiazoline (Compound No. 3).

reactant | 2-[(t-butylcarbonyl)imino]-3-[3-(trifluoromethyl)phenyl]-5-methylthiazoline | 1 g | C(C)(C)(C)C(=O)N=C1SC(=CN1C1=CC(=CC=C1)C(F)(F)F)C | C16H17F3N2OS
reactant | 2,4bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4disulfide | 2 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-[t-butyl(thiocarbonyl)]imino-3-[3-(trifluoromethyl)phenyl]-5-methylthiazoline | 0.6 g | C(C)(C)(C)C(=S)N=C1SC(=CN1C1=CC(=CC=C1)C(F)(F)F)C | C16H17F3N2S2
